US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), morpholine (240 μl, 2.76 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7 ml) is stirred for 3 hours at 70° C. The mixture is diluted with ethyl acetate and washed with sat. aqueous sodium hydrogencarbonate solution and brine. The organic layer is separated, dried with magnesium sulfate and the solvent is evaporated. The residue (76 mg white foam) is triturated with diethylether and ethyl acetate affording 1-methyl-4-(morpholine-4-carbonyl)-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (53 mg, 44.5%) as a white solid. mp.: 203-207° C. MS: m/z=432.4 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | morpholine | 2.76 mmol, 240 μl | N1CCOCC1 | C4H9NO
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-4-(morpholine-4-carbonyl)-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 53 mg, 44.5% | CN1N=CC(=C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C(=O)N2CCOCC2 | C22H21N7O3
